US08937080B2
Step c: 4-Chloro-6-(4-methoxy-benzyloxy)-2-methylsulfanyl-pyrimidine (19c)
To a solution of 4-methoxybenzyl alcohol (8.9 g, 65 mmol) in dry DMF (100 ml) was added a 60% suspension of sodium hydride (2.2 g, 55 mmol) in portions and the mixture was stirred for two hours at room temperature. The mixture was cooled in an ice bath and 4,6-dichloro-2-methylsulfanyl-pyrimidine (9.8 g, 50 mmol) in dry THF (20 ml) was added. The mixture was then stirred for 72 h at room temperature. Water was added and the mixture was extracted twice with ethyl acetate. The organic phase was washed with water, dried with sodium sulphate and evaporated under reduce pressure. The residue was purified by silica gel chromatography eluted with hexane ethyl acetate which gave the title compound (9.1 g, 61%), (M+H)+296

reactant | 4-methoxybenzyl alcohol | 65 mmol, 8.9 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine | 50 mmol, 9.8 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | Water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Chloro-6-(4-methoxy-benzyloxy)-2-methylsulfanyl-pyrimidine | 9.1 g, 61% | ClC1=NC(=NC(=C1)OCC1=CC=C(C=C1)OC)SC | C13H13ClN2O2S
